US07601726B2
2,4-Bis-(2,4-difluoro-phenoxy)-pyrimidine-5-carboxylic acid ((R)-2-methanesulfonyl-1-methyl-ethyl)-amide (61.16 g, 122.5 mmol) was added to 600 mL dry dichloromethane, and the mixture was stirred under nitrogen. 2,6-lutidine (43.0 mL, 184 mmol) was added, and the mixture was cooled to 0° C. in an ice bath for 30 minutes with stirring. Trifluoroacetic anhydride (31.0 mL, 184 mmol) was added dropwise over five minutes, and the reaction mixture was stirred for 10 minutes at 0 ° C. The ice bath was removed and the reaction mixture was stirred for 3.5 hours. The reaction mixture was then cooled to 0 ° C. in an ice bath for 30 minutes, and tert-butyl carbazate (24.36 g, 184 mmol) was added in portions over five minutes. The ice bath was removed and the reaction mixture was stirred at room temperature for 12 hours. The reaction mixture was again cooled to 0° C. in an ice bath for 30 minutes, and trifluoroacetic acid (200 mL) was added in portions over 15 minutes. The reaction mixture was stirred for another 15 minutes, then the ice bath was removed and stirring was continued for two hours. The reaction mixture was concentrated under reduced pressure, and 500 mL dichloromethane was added to the residue. The mixture was cooled in an ice bath for 15 minutes, and 1.5 L of saturated aqueous sodium bicarbonate was slowly added in portions with stirring, resulting in an aqueous solution of pH=8 and the formation of a precipitate. The precipitate was collected by filtration and rinsed with water, followed by dichloromethane, and dried under vacuum at 80° C. to give 30.15 g (60%) of [6-(2,4-Difluoro-phenoxy)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-((R)-2-methanesulfonyl-1-methyl-ethyl)-amine. Mp=177.7-178.8° C., MS(M+H)=384.

reactant | 2,4-Bis-(2,4-difluoro-phenoxy)-pyrimidine-5-carboxylic acid ((R)-2-methanesulfonyl-1-methyl-ethyl)-amide | 122.5 mmol, 61.16 g | CS(=O)(=O)C[C@@H](C)NC(=O)C=1C(=NC(=NC1)OC1=C(C=C(C=C1)F)F)OC1=C(C=C(C=C1)F)F | C21H17F4N3O5S
reactant | 2,6-lutidine | 184 mmol, 43.0 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | Trifluoroacetic anhydride | 184 mmol, 31.0 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | tert-butyl carbazate | 184 mmol, 24.36 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
solvent | dichloromethane | 600 mL | ClCCl | CH2Cl2
product | [6-(2,4-Difluoro-phenoxy)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-((R)-2-methanesulfonyl-1-methyl-ethyl)-amine | 30.15 g, 60% | FC1=C(OC2=NC=C3C(=N2)NN=C3N[C@@H](CS(=O)(=O)C)C)C=CC(=C1)F | C15H15F2N5O3S
